US07700633B2
G. 3-Benzyloxy-7-carboxymethoxynaphthalene-2-carboxylic acid methyl ester
7-tert-butoxycarbonylmethoxy-3-hydroxynaphthalene-2-carboxylic acid methyl ester (1.35 g, 3.2 mmol) in formic acid (5 mL) is stirred at RT for 2 h. The mixture is poured into water, filtered and washed with water. After it is air dried for 18 h, it is dissolved in EtOAc, dried with MgSO4, concentrated to give the title compound.

reactant | 7-tert-butoxycarbonylmethoxy-3-hydroxynaphthalene-2-carboxylic acid methyl ester | 3.2 mmol, 1.35 g | COC(=O)C1=CC2=CC(=CC=C2C=C1O)OCC(=O)OC(C)(C)C | C18H20O6
reactant | water | O | H2O
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 3-Benzyloxy-7-carboxymethoxynaphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)OCC(=O)O | C21H18O6
